US06307047B1
4-Bromo-2-methylthioanisole
To a 0° C. solution of 2-methylthioanisole (0.50 g, 3.57 mmol) in methylene chloride (40 mL) was added powdered Fe (20 mg, 0.36 mmol) followed by dropwise addition of bromine (0.58 g, 3.54 mmol). After 30 minutes, the starting material had been consumed (thin layer chromatography, hexanes). The excess bromine was quenched by adding a solution of NaHSO3 and stirring for several minutes. The methylene chloride layer was separated, and the aqueous phase extracted with additional methylene chloride. The combined methylene chloride solution was dried over MgSO4, filtered, and concentrated in vacuo. The resultant oil was chromatographed (flash silica gel, ethyl acetate/hexanes 1:49) to provide the product (yield: 0.74 g, 96%). 1H NMR (300 MHz, CDCl3) δ 2.30 (s, 3H), 2.45 (s, 3H), 7.00 (d, J=8.4 Hz, 1H), 7.27-7.33 (m, 2H).

reactant | 2-methylthioanisole | 3.57 mmol, 0.50 g | CC1=C(C=CC=C1)SC | C8H10S
reactant | bromine | 3.54 mmol, 0.58 g | BrBr | Br2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | Fe | 0.36 mmol, 20 mg | [Fe] | Fe
product | 4-Bromo-2-methylthioanisole | yield: 0.74 g, 96% | BrC1=CC(=C(C=C1)SC)C | C8H9BrS
